US05994368
To a solution of methyl (E)-3-[6-(4-bromobutyramido)-pyridin-3-yl]acrylate (90 mg) in dimethylformamide was added sodium hydride (6.93 mg) at 0° C. under nitrogen atmosphere, and the mixture was stirred for 1 hour. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and concentrated in vacuo to give methyl (E)-3-[6-(2-oxopyrrolidin-1-yl)pyridin-3-yl]acrylate (65 mg).

reactant | methyl (E)-3-[6-(4-bromobutyramido)-pyridin-3-yl]acrylate | 90 mg | BrCCCC(=O)NC1=CC=C(C=N1)/C=C/C(=O)OC | C13H15BrN2O3
reactant | sodium hydride | 6.93 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | methyl (E)-3-[6-(2-oxopyrrolidin-1-yl)pyridin-3-yl]acrylate | 65 mg | O=C1N(CCC1)C1=CC=C(C=N1)/C=C/C(=O)OC | C13H14N2O3
